US08912188B2
To a solution of methyl 3-(cyclopentylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.55 mmol) in tetrahydrofuran (15 mL) was added sodium hydride (96 mg, 4.00 mmol) at 0° C. After stirring for 1 h at room temperature, iodomethane (141.94 mg, 1.00 mmol) was added at 0° C. and the reaction mixture was stirred overnight. The reaction was then quenched by the addition of water (3 mL), extracted with dichloromethane (3×15 mL), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give methyl 3-(cyclopentyl(methyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow oil (120 mg, crude).

reactant | methyl 3-(cyclopentylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.55 mmol, 200 mg | C1(CCCC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C21H20FN3O2
reactant | sodium hydride | 4.00 mmol, 96 mg | [H-].[Na+]
reactant | iodomethane | 1.00 mmol, 141.94 mg | IC | CH3I
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | methyl 3-(cyclopentyl(methyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | C1(CCCC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C22H22FN3O2
